US04202978
1-[2-(4-Benzyloxyphenoxy)ethyl]-4-phenylpiperazine
26.25 ml 4 N NaOH (0.105 mol) was added to a stirred mixture of 21.0 g (0.105 mol) 4-benzyloxyphenol and 22.5 g (0.1 mol) of 1-(2-chloroethyl)-4-phenylpiperazine in 250 ml DMSO and the reaction was heated at 60° for 60 min. After cooling, the stirred mixture was diluted with 50 ml 1 N NaOH solution and the resulting crystalline precipitate was collected by filtration and washed with water to give, after drying in vacuo, essentially pure end product, mp 116°-119°.

reactant | 4-benzyloxyphenol | 0.105 mol, 21.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | 1-(2-chloroethyl)-4-phenylpiperazine | 0.1 mol, 22.5 g | ClCCN1CCN(CC1)C1=CC=CC=C1 | C12H17ClN2
solvent | DMSO | 250 ml | CS(=O)C | C2H6OS
solvent | NaOH | 1 N, 50 ml | [OH-].[Na+]
solvent | NaOH | 0.105 mol, 4 N, 26.25 ml | [OH-].[Na+]
product | 1-[2-(4-Benzyloxyphenoxy)ethyl]-4-phenylpiperazine | C(C1=CC=CC=C1)OC1=CC=C(OCCN2CCN(CC2)C2=CC=CC=C2)C=C1 | C25H28N2O2
